US07868030B2
ii) 2-Isobutyl-thiophene
To a mixture of potassium hydroxide (2.24 g, 40 mmol) and hydrazine monohydrate (3.0 g, 60 mmol) in diethylene glycol (25 ml) was added 2-methyl-1-thiophen-2-yl-propan-1-one (1.54 g, 10 mmol). The combined mixture was heated at 180° C. for 1 h and then at 210° C. for a further 2 h. The mixture was cooled to rt and diluted with water (100 ml) and extracted with diethyl ether (3×). The combined organic extracts were washed with water, brine, dried (Na2SO4), filtered and concentrated under reduced pressure to yield a yellow oil: 0.9 g (61%) GC-MS: M=140.0.

reactant | potassium hydroxide | 40 mmol, 2.24 g | [OH-].[K+]
reactant | hydrazine monohydrate | 60 mmol, 3.0 g | O.NN
reactant | 2-methyl-1-thiophen-2-yl-propan-1-one | 10 mmol, 1.54 g | CC(C(=O)C=1SC=CC1)C | C8H10OS
solvent | diethylene glycol | 25 ml | C(COCCO)O | C4H10O3
solvent | water | 100 ml | O | H2O
product | 2-Isobutyl-thiophene | C(C(C)C)C=1SC=CC1 | C8H12S
